US04739050
2-Cyano-3,4-dihydro-2-[4-(2,3-epoxypropoxy)phenyl]-4-methyl-3-oxo-2H-1,4-benzothiazine (compound No. 23)
To a stirred suspension of 60% sodium hydride (0.7 g) in anhydrous dimethylformamide (5 ml), 2-cyano-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (5.0 g, compound No. 10) dissolved in anhydrous dimethylformamide (15 ml) is added under nitrogen atmosphere and ice-cooling, and the mixture is stirred for 7 minutes at room temperature. Epichlorohydrin(2.6 ml) is added to the reaction mixture, and the mixture is stirred for 1 hour at 65°-75° C. The mixture is poured into a mixture of ethyl acetate and water. The organic layer is washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is purified by silica gel column chromatography to give 3.2 g (54.5%) of the titled compound.

reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | 2-cyano-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | 5.0 g | C(#N)C1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)O | C16H12N2O2S
reactant | Epichlorohydrin | 2.6 ml | C(Cl)C1CO1 | C3H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Cyano-3,4-dihydro-2-[4-(2,3-epoxypropoxy)phenyl]-4-methyl-3-oxo-2H-1,4-benzothiazine | 3.2 g, 54.5% | C(#N)C1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)OCC2CO2 | C19H16N2O3S
